US05254565
A mixture of 6-chloro-4-(2-hydroxy-3,4-dimethoxyphenyl)-3-nitroquinoline (1.20 g), N,N-dimethylformamide (20 ml), potassium carbonate powder (0.92 g) and methyl iodide (0.41 ml) was stirred for 10 mins. at 0° C. and for 2 hrs. at room temperature, and then diluted with water, extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was recrystallized from methanol to give 6-chloro-4-(2,3,4-trimethoxyphenyl)-3-nitroquinoline as yellow crystals (1.12 g, 89.6%). m.p. 114°-116° C.

reactant | 6-chloro-4-(2-hydroxy-3,4-dimethoxyphenyl)-3-nitroquinoline | 1.20 g | ClC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])C1=C(C(=C(C=C1)OC)OC)O | C17H13ClN2O5
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.41 ml | CI | CH3I
solvent | water | O | H2O
product | 6-chloro-4-(2,3,4-trimethoxyphenyl)-3-nitroquinoline | 1.12 g, 89.6% | ClC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])C1=C(C(=C(C=C1)OC)OC)OC | C18H15ClN2O5
